US07112680B2
1-(6-Phenyl-2-pyridyl)-1-ethanone-1-(1-methyl-1H-benzo[d]imidazol-2-yl)-hydrazone (1d-17)
A mixture of 2-acetyl-6-phenylpyridine (0.50 g, 2.53 mmol) and 1-methyl-2-hydrazinobenzimidazole (0.41 g, 2.53 mmol) in 10 ml of methanol is stirred at room temperature for 12 hours after the addition of 6 drops of glacial acetic acid. The reaction is monitored by means of thin layer chromatography (Polygram Sil G/UV254 prefabricated foils; eluting agent: CH2Cl2:MeOH (12:1)). Subsequently, the reaction mixture is diluted with distilled water until a precipitate forms and stored for 24 hours in a refrigerator at approximately 5° C. The precipitate is filtered, washed several times with water, and dried. The product is recrystallized from a mixture of methanol and water. Yield: 0.51 g (59% of theory).

reactant | 2-acetyl-6-phenylpyridine | 2.53 mmol, 0.50 g | C(C)(=O)C1=NC(=CC=C1)C1=CC=CC=C1 | C13H11NO
reactant | 1-methyl-2-hydrazinobenzimidazole | 2.53 mmol, 0.41 g | CN1C(=NC2=C1C=CC=C2)NN | C8H10N4
solvent | methanol | 10 ml | CO | CH4O
catalyst | acetic acid | 6 drops | C(C)(=O)O | C2H4O2
product | 1-(6-Phenyl-2-pyridyl)-1-ethanone-1-(1-methyl-1H-benzo[d]imidazol-2-yl)-hydrazone | CN1C(=NC2=C1C=CC=C2)NN=C(C)C2=NC(=CC=C2)C2=CC=CC=C2 | C21H19N5
